US07612075B2
A. 3-(5-Chloro-thiophen-2-yl)-(E)-acrylic acid methyl ester.
To a solution of 5-chloro-2-thiophene-carboxaldehyde (5.10 g, 34.8 mmol) in 100 mL of dry CH2Cl2 is added methyl (triphenylphosphoranylidene)acetate (11.8 g, 35.3 mmol). The resulting brown-green mixture is stirred for 19 h at room temperature. The mixture is filtered through a Celite pad, concentrated in vacuo and triturated with hexane. The white precipitate (triphenylphosphine oxide) is filtered off and the filtrate is concentrated. The crude residue is purified via flash column chromatography eluting with a gradient of 5% EtOAc/hexanes to 10% EtOAc/hexanes to provide the title compound (6.20 g, 30.6 mmol) as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ7.65 (d, 1H), 7.05 (d, 1H), 6.89 (d, 1H), 6.10 (d, 1H), 3.80 (s, 3H).

reactant | 5-chloro-2-thiophene-carboxaldehyde | 34.8 mmol, 5.10 g | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | methyl (triphenylphosphoranylidene)acetate | 35.3 mmol, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Chloro-thiophen-2-yl)-(E)-acrylic acid methyl ester | 30.6 mmol, 6.20 g | COC(\C=C\C=1SC(=CC1)Cl)=O | C8H7ClO2S
